US04810708
Reflux a mixture of 1-acetyl-2-[2-[(3-chlorophenyl)amino]-3-pyridinylcarbonyl]-3-(1-pyrrolidinyl)-1H-pyrrole (0.45 g), p-toluenesulfonic acid monohydrate (0.21 g) in a solvent of benzene (20 ml), and tert-butanol for 12 hours. Evaporate solvent and partition the residue between CHCl3 and 1M NaHCO3. Wash the CHCl3 solution with water, dry and filter the solution. Evaporate the solvent, and triturate the residue with CHCl3 to give 4-(3-chlorophenyl)-1,4-dihydro-9H-pyrrolo[3,2-b][1,8]naphthyridin-9-one, m.p. 300°-301° C.

reactant | 1-acetyl-2-[2-[(3-chlorophenyl)amino]-3-pyridinylcarbonyl]-3-(1-pyrrolidinyl)-1H-pyrrole | 0.45 g | C(C)(=O)N1C(=C(C=C1)N1CCCC1)C(=O)C=1C(=NC=CC1)NC1=CC(=CC=C1)Cl | C22H21ClN4O2
reactant | p-toluenesulfonic acid monohydrate | 0.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | 4-(3-chlorophenyl)-1,4-dihydro-9H-pyrrolo[3,2-b][1,8]naphthyridin-9-one | ClC=1C=C(C=CC1)N1C2=C(C(C=3C=CC=NC13)=O)NC=C2 | C16H10ClN3O
